US06881855B2
Preparation of 2-norbornyldimethylsilyl Trifluoromethanesulfonate
At room temperature, trifluoromethanesulfonic acid (7.50 g, 49.0 mmol) is added dropwise to 2-norbornyl-dimethylchlorosilane (9.50 g, 49.3 mmol), whose preparation is described in Example 1. The reaction mixture is heated to 60° C. for 10 h. The crude product is distilled under oil pump vacuum. 12.3 g (83%) of colorless, moisture-sensitive liquid having b.p. 100-105° C. (1 mbar) is obtained. Purity 93% (GC).

reactant | trifluoromethanesulfonic acid | 49.0 mmol, 7.50 g | FC(S(=O)(=O)O)(F)F | CHF3O3S
reactant | 2-norbornyl-dimethylchlorosilane | 49.3 mmol, 9.50 g | C12C(CC(CC1)C2)[Si](Cl)(C)C | C9H17ClSi
product | 2-norbornyldimethylsilyl Trifluoromethanesulfonate | FC(S(=O)(=O)O[Si](C)(C)C1C2CCC(C1)C2)(F)F | C10H17F3O3SSi
